US04661607
A mixture of 2,4-dichloro-3-hydroxy-9-oxo-9H-xanthene (7.5 g), potassium carbonate (7.5 g), ethyl bromoacetate (9.0 g) and DMF (100 ml) was stirred at 55°-65° C. for 3 hours. After cooling the mixture, sodium hydroxide (20 g) and water (250 ml) were added and the resulting mixture was stirred at 90°-100° C. for 1 hour. After cooling, the mixture was rendered acidic with hydrochloric acid and the solid crystal was recovered by filtration, washed with water and dried. Recrystallization from ethanol gave 4.0 g of 2,4-dichloro-9-oxo-9H-xanthene-3-yloxyacetic acid. m.p. 225°-228° C. This compound gave a mass spectrum having a molecular ion peak at m/e 338.

reactant | 2,4-dichloro-3-hydroxy-9-oxo-9H-xanthene | 7.5 g | ClC1=CC=2C(C3=CC=CC=C3OC2C(=C1O)Cl)=O | C13H6Cl2O3
reactant | potassium carbonate | 7.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 9.0 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydroxide | 20 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 250 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2,4-dichloro-9-oxo-9H-xanthene-3-yloxyacetic acid | 4.0 g | ClC(C(=O)O)OC=1C=CC=2C(C3=CC=CC=C3OC2C1Cl)=O | C15H8Cl2O5
